US05688795
A mixture of 1-(2,4-dimethoxyphenyl) piperazine hydrochloride (3.1 g, 13.9 mmol) in 30 mL of approximately 40% aqueous hydrogen bromide was heated at reflux for 30 hours and then the volatiles were removed in vacuo. Recrystallization of the residue from methanol gave 1-(4-hydroxy-2-methoxyphenyl)piperazine dihydrobromide (4.6 g, 12.4 mmol), m.p. >280° C.

reactant | 1-(2,4-dimethoxyphenyl) piperazine hydrochloride | 13.9 mmol, 3.1 g | Cl.COC1=C(C=CC(=C1)OC)N1CCNCC1
reactant | hydrogen bromide | 30 mL | Br | BrH
product | 1-(4-hydroxy-2-methoxyphenyl)piperazine dihydrobromide | 12.4 mmol, 4.6 g | Br.Br.OC1=CC(=C(C=C1)N1CCNCC1)OC | InChI=1S/C11H16N2O2.2BrH/c1-15-11-8-9(14)2-3-10(11)13-6-4-12-5-7-13;;/h2-3,8,12,14H,4-7H2,1H3;2*1H
